US08383825B2
N-[{2-[(2-hydroxyethyl)amino]-2-oxoethyl}(oxo)phenyl-λ6-sulfanylidene]-5-[(3-hydroxyphenyl)ethynyl]nicotinamide
In a manner similar to that described for Example 471, (S)-Ethyl [N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate (75 mg, 0.17 mmol) and ethanolamine (0.05 mL, 0.84 mmol) were reacted to give the title compound as colorless oil (63 mg, 81%).

reactant | (S)-Ethyl [N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate | 0.17 mmol, 75 mg | OC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CC(=O)OCC | C24H20N2O5S
reactant | ethanolamine | 0.84 mmol, 0.05 mL | C(O)CN | C2H7NO
product | N-[{2-[(2-hydroxyethyl)amino]-2-oxoethyl}(oxo)phenyl-λ6-sulfanylidene]-5-[(3-hydroxyphenyl)ethynyl]nicotinamide | 63 mg, 81% | OCCNC(CS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)O)=O)(C1=CC=CC=C1)=O)=O | C24H21N3O5S
